US05859007
2-(3-Hydroxymethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
To a stirring solution of 460 mg (0.80 mmol) of 2-[3-(Benzyloxymethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide in 10 mL of DMF/CHCl3 1/1 is added 200 mg of 10% Pd/C. The resulting mixture is stirred at RT over an atmosphere of H2 gas (balloon) for 6 h. The reaction mixture is filtered through a pad of Celite to remove the catalyst, rinsing with EtOAc. The filtrate is diluted further with 20 mL of EtOAc and extracted with H2O (2×40 mL). The organic layer is separated, dried (MgSO4), and the solvents removed in vacuo. Purification by trituration with EtOAc/Et2O 1/1 afforded 365 mg of the title compound as a white solid: mp 136°-139° C.; 1H NMR (CDCl3, 400 MHz) δ7.40-7.19 (m, 8H), 7.10 (m, 2H), 6.94 (m, 3H), 4.99 (m, 1H), 4.28 (m, 2H), 4.15 (m, 2H), 3.84 (s, 3H), 3.65 (t, 1H, J=6.9), 2.37 (t, 1H, J=7.3), 1.06 (2×d, 6H, J=6.3); low resolution MS (FAB)m/e 488 (MH+), 323, 277; Anal. (C28H29N3O5) Calcd. C, 68.98; H, 6.00; N, 8.62 Found C, 67.05; H, 5.99; N, 8.33.

reactant | 2-[3-(Benzyloxymethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 0.80 mmol, 460 mg | C(C1=CC=CC=C1)OCC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C35H35N3O5
solvent | brine ethyl acetate | 10 mL | [Cl-].[Na+].O.C(C)(=O)OCC
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 2-(3-Hydroxymethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 365 mg | OCC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C28H29N3O5
